* PMOS-input telescopic/folded cascode + on-chip bias, sky130A, VDD=0.9V
* Low-voltage (Sooch) cascode bias: cascode-gate nodes generated by a single
* diode with 1/4 W/L so VGS = Vt + 2*Vov, fitting in one VGS of headroom.
*
* External ref: IBIAS sinks 10uA from chip pin up to VDD.
*   (i.e. external current sink pulls IREF from VDD into the IBIAS pin;
*    internal PMOS diode at IBIAS sources that current from VDD.)
*
* Mirror plan (everything ratioed off IREF=10uA via integer m), retargeted for 0.9V:
*   NMOS unit:   L=1   W=8  nf=4   (single device draws 10uA when diode-tied at VBIAS3)
*   PMOS unit:   L=1   W=16 nf=4
*
*   M11/M12  NMOS sink         m=4    -> 40 uA each
*   M_TAIL   PMOS tail         m=4    -> 40 uA total  (input pair = 20 uA each)
*   M3/M4    PMOS load mirror  m=2    -> 20 uA each   (KCL @ nbL: 40 = 20 + 20)
*
* Signal-path cascodes carry 20uA each. Total IDD ~ 80uA + biases.
*
* Signal-path cascodes:
*   NMOS cascodes M1A/M2A : L=0.5 W=8 nf=4 m=2 (carry 30uA, low Vov)
*   PMOS cascodes M3A/M4A : L=0.5 W=8 nf=4 m=2

.subckt fc_se_pmos VDD VSS IBIAS VINP VINN VOUTP

* ============================================================
*  BIAS GENERATION  --  Beta-multiplier (constant-gm) self-biased
* ============================================================
*  Two-branch loop:
*    Branch A (left):  XBP_A diode-PMOS over XBN_A (1x NMOS, gate=nB)
*                      drain node = VBP  (= gate of both PMOS)
*    Branch B (right): XBP_B mirror PMOS over XBN_B (K=4x NMOS, diode-tied
*                      at nB) with source-degen R_BM to VSS.
*  Loop forces I_A = I_B (mirror) AND V_GS_A = V_GS_B + I*R_BM (KVL).
*  With NMOS area ratio K=4 and matched VGS function:
*      I = (2/(R^2 mu_n Cox (W/L)_A)) * (1 - 1/sqrt(K))^2
*  VBP is set by the PMOS diode at that current.
*  VBIAS3 = nB (NMOS gate) is the diode-connected node on branch B.
*
*  Startup: zero-current is also an equilibrium. RKICK from VDD to nB
*  injects a tiny leak (~1nA) that biases the loop to the active basin.
*
*  External IBIAS pin: still sinks 10uA; we tie it to VBP with 1ohm so
*  the testbench sees nominal compliance. (The external sink is a
*  helper, not the master ref any more.)

* --- core loop devices ---
XBP_A    VBP  VBP  VDD VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=16 nf=4 m=4
XBP_B    nBd  VBP  VDD VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=16 nf=4 m=4

XBN_A    VBP  nBd  VSS VSS  sky130_fd_pr__nfet_01v8_lvt L=2 W=4  nf=2 m=4
XBN_B    nBd  nBd  nBs VSS  sky130_fd_pr__nfet_01v8_lvt L=2 W=4  nf=2 m=16
RBM      nBs  VSS  5k

* --- startup: self-disabling diode-tied pfet from VDD to nBd ---
*   When loop is OFF, nBd is near 0 -> |VSG|=VDD -> pfet sources ~uA
*   When loop is ON,  nBd settles -> |VSG| ~ Vt -> tiny current.
XSTART   nBd  nBd  VDD VDD  sky130_fd_pr__pfet_01v8_lvt L=8 W=1 nf=1

* --- VBIAS3 = nBd, with 1-ohm decouple for naming ---
RVB3     VBIAS3 nBd 1

* --- IBIAS pin compliance: dummy PMOS diode, NOT part of the loop ---
*   Absorbs the 10uA the testbench sinks; its drain is the pin itself.
XDUMMY   IBIAS IBIAS VDD VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=16 nf=4

* --- VBIAS2 low-voltage NMOS cascode bias (single diode, W/L cut 4x) ---
*   10uA from VBP-mirror PMOS into a 1/4-aspect NMOS diode -> VGS = Vt + 2*Vov.
*   m=4 on both for MC robustness (sigma(Vt) halved).
XMP_B2   VBIAS2  VBP    VDD VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=16 nf=4 m=4
XMN_B2   VBIAS2  VBIAS2 VSS VSS  sky130_fd_pr__nfet_01v8_lvt L=2 W=4  nf=2 m=4

* --- VBIAS1 low-voltage PMOS cascode bias (single diode, W/L cut 4x) ---
*   10uA pulled by 1/4-aspect PMOS diode to VDD -> |VGS| = |Vt| + 2*|Vov|.
*   m=4 on both for MC robustness.
XMP_B1   VBIAS1  VBIAS1 VDD VDD  sky130_fd_pr__pfet_01v8_lvt L=4 W=16 nf=4 m=4
XMN_B1   VBIAS1  VBIAS3 VSS VSS  sky130_fd_pr__nfet_01v8_lvt L=0.5 W=4 nf=2 m=4

* ============================================================
*  SIGNAL PATH
* ============================================================

* PMOS tail (40uA total) -- wider unit to keep |VSG_tail| ~ 0.55V at 0.9V VDD
XMTL     ntail   VBP    VDD VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=16 nf=4 m=4

* PMOS input pair (20uA each)
XM1      nbL     VINP   ntail VDD sky130_fd_pr__pfet_01v8_lvt L=0.5 W=20 nf=4 m=2
XM2      nbR     VINN   ntail VDD sky130_fd_pr__pfet_01v8_lvt L=0.5 W=20 nf=4 m=2

* NMOS bottom sinks (40uA each) -- unit matches XR_M11 (W=4 nf=2 L=0.5)
XM11     nbL     VBIAS3 VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.5 W=4 nf=2 m=4
XM12     nbR     VBIAS3 VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.5 W=4 nf=2 m=4

* NMOS wide-swing cascodes (fold current = 20uA each)
XM1A     fL      VBIAS2 nbL VSS sky130_fd_pr__nfet_01v8_lvt L=4 W=32 nf=4 m=1
XM2A     VOUTP   VBIAS2 nbR VSS sky130_fd_pr__nfet_01v8_lvt L=4 W=32 nf=4 m=1

* PMOS wide-swing cascodes (20uA each)
XM3A     fL      VBIAS1 nP3d VDD sky130_fd_pr__pfet_01v8_lvt L=4 W=32 nf=4 m=2
XM4A     VOUTP   VBIAS1 nP4d VDD sky130_fd_pr__pfet_01v8_lvt L=4 W=32 nf=4 m=2

* PMOS top mirror (M3 diode @ fL) -- wider/shorter to keep |VSG| < 0.5V at SS
XM3      nP3d    fL     VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=32 nf=4 m=4
XM4      nP4d    fL     VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=32 nf=4 m=4

.ends fc_se_pmos
